US05300282
(b) 5-Bromo-2-(4-bromophenoxymethyl)benzoic acid
Methyl 5-bromo-2-(4-bromophenoxymethyl)benzoate (90 g, 0.23 mole) was refluxed in a mixture of 100 mL of 10% sodium hydroxide and 200 mL of methanol for three hours. The reaction mixture was concentrated under reduced pressure and water was added to the residue. The mixture was acidified with concentrated hydrochloric acid. A solid was precipitated and collected as the acid product (80 g). mp 214°-215° C. pmr (DMSO-d6) 6: 6.76-8.01 (m, 7H, aromatic H), 5.38 (s, 2H, ArCH2O).

reactant | Methyl 5-bromo-2-(4-bromophenoxymethyl)benzoate | 0.23 mole, 90 g | BrC=1C=CC(=C(C(=O)OC)C1)COC1=CC=C(C=C1)Br | C15H12Br2O3
solvent | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 5-Bromo-2-(4-bromophenoxymethyl)benzoic acid | BrC=1C=CC(=C(C(=O)O)C1)COC1=CC=C(C=C1)Br | C14H10Br2O3
